US04377522
1.5 g (0.0044 mol) of 5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-7-nitro-2H-1,4-benzodiazepin-2-one are dissolved in 15 ml of concentrated hydrochloric acid, treated with 3.3 g of tin (II) chloride and stirred at room temperature for 15 minutes. The reaction mixture is poured into a mixture of ice and soda solution and extracted with methylene chloride. After drying and evaporating the organic phase, the residue is recrystallised from ether. There is obtained 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one of melting point 190°-191°.

reactant | 5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.0044 mol, 1.5 g | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)[N+](=O)[O-])C)=O)(C)C | C18H16FN3O3
reactant | tin (II) chloride | 3.3 g | [Sn](Cl)Cl
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1 | C18H18FN3O
